US06800651B2
A solution of N-(4-hydroxyphenyl)pyridin-3-ylmethylamine (1.0 equiv.) in THF (0.1 M) was cooled to 0° C. and treated with imidazole (1.0 equiv.) and t-butyldimethylsilyl chloride (1.1 equiv.). The reaction was warmed to ambient temperature and stirred overnight. The THF was removed in vacuo. The residue was dissolved in ethyl acetate and washed with 0.1 N HCl, saturated aqueous NaHCO3, water, and brine. The residue was purified via preparative HPLC eluting with 80:20 to 68:32 DCM/ethyl acetate to give N-(4-(t-butyldimethylsilyloxy)phenyl) pyridin-3-ylmethylamine. Anal Calcd for C18H26N2OSi: C, 68.74; H, 8.33; N, 8.91. Found: C, 68.62; H, 8.28; N, 8.74. 1H NMR (400 MHz) 0.15 (6H, s), 0.96 (9H, s), 3.77 (1H, bs), 4.30 (2H, s), 6.53 (2H, m), 6.70 (2H, m), 7.26 (1H, m), 7.70 (1H, td, J=1.9, 7.7 Hz), 8.53(1H, dd, J=1.4, 4.6 Hz), 8.62 (1H, d, J=1.6 Hz). MS found 315.2 [M+H]+

reactant | N-(4-hydroxyphenyl)pyridin-3-ylmethylamine | 1.0 equiv. | OC1=CC=C(C=C1)NCC=1C=NC=CC1 | C12H12N2O
reactant | imidazole | 1.0 equiv. | N1C=NC=C1 | C3H4N2
reactant | t-butyldimethylsilyl chloride | 1.1 equiv. | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
solvent | THF | 0.1 M | C1CCOC1 | C4H8O
product | N-(4-(t-butyldimethylsilyloxy)phenyl) pyridin-3-ylmethylamine | [Si](C)(C)(C(C)(C)C)OC1=CC=C(C=C1)NCC=1C=NC=CC1 | C18H26N2OSi
